* Z:\mnt\design.r\spice\examples\1044.asc
XU1 N001 N003 0 N006 N007 N005 N004 N002 LTC1044
V1 N002 0 5
C5 N007 0 10µ
C6 N003 N006 10µ
C1 0 N004 100p
Rload N007 0 1K
.tran 100m startup
.lib LTC1044.sub
.backanno
.end
